US07456195B2
(4-Amino-2-fluoro-benzyl)-carbamic acid tert-butyl ester
A solution of 2-fluoro-4-nitrobenzonitrile (0.541 g, 2.43 mmol) in methanol (20 mL) and hydrochloric acid (3 mL, 6 N) was hydrogenated (55 psi) over 10% palladium on carbon (164 mg) overnight. The reaction mixture was filtered and concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (5 mL) and treated with 2-(tert-butoxycarbonyloxyimino)-2-phenylacetonitrile (0.517 mg, 2.10 mmol) and triethylamine (0.6 mL, 4.3 mmol). After 16 h at rt, the reaction mixture was diluted with dichloromethane and washed with sodium bicarbonate solution and brine, dried (MgSO4), and concentrated under reduced pressure. The residue was purified by silica gel chromatography (gradient from 0 to 50% ethyl acetate in hexanes) to give 1-63A-(0.287 g, 60%) as a colorless oil which solidified on standing.

reactant | 2-fluoro-4-nitrobenzonitrile | 2.43 mmol, 0.541 g | FC1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C7H3FN2O2
reactant | 2-(tert-butoxycarbonyloxyimino)-2-phenylacetonitrile | 2.10 mmol, 0.517 mg | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
reactant | triethylamine | 4.3 mmol, 0.6 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 mL | CO | CH4O
solvent | hydrochloric acid | 6 N, 3 mL | Cl | ClH
catalyst | palladium on carbon | 164 mg | [Pd] | Pd
solvent | dichloromethane | ClCCl | CH2Cl2
product | (4-Amino-2-fluoro-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C=C(C=C1)N)F)=O | C12H17FN2O2
